US06852731B2
N-Methoxy-N-methylpyrimidine-2-carboxamide
Sodium pyrimidine-2-carboxylate (154.05 g), imidazole hydrochloride (119.3 g), and 1,1-carbonyldiimidazole (195 g) was slurried in acetonitrile (700 ml). The mixture was warmed from 15° C. to 52° C. over 0.5 h. Carbon dioxide was vigorously evolved between 30 and 50° C. The mixture was stirred 1 h at 52° C. then cooled to 15° C. and N,O-dimethylhydroxylamine hydrochloride (131.90 g) was added with an exotherm to 34° C. The mixture was cooled to 14° C. and methylene chloride (300 ml) and water (500 ml) was added. The pH was adjusted from 7.6 to 1.6 with aqueous sulfuric acid (6.13 M, 226 ml). The phases were separated and the lower aqueous phase washed with methylene chloride (500 ml). To the combined organics was added water (300 ml) and the pH adjusted to 1.18 with aqueous sulfuric acid (6.13 M, 5.1 ml). The phases were separated and the organics washed with saturated aq. sodium bicarbonate (300 ml). All three aqueous phases were serial back extracted with methylene chloride (500 ml). The bicarbonate wash was back extracted with methylene chloride (500 ml). The combined organics were dried (MgSO4) and concentrated in vacuo to a thin slurry. The residue was slurried in methylene chloride (200 ml) and the solids filtered off. The filtrate was concentrated to afford 160.7 g of the title compound as an oil.

reactant | Sodium pyrimidine-2-carboxylate | 154.05 g | N1=C(N=CC=C1)C(=O)[O-].[Na+]
reactant | imidazole hydrochloride | 119.3 g | Cl.N1C=NC=C1
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 131.90 g | Cl.CNOC
reactant | sulfuric acid | 6.13 M, 226 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methylpyrimidine-2-carboxamide | 160.7 g | CON(C(=O)C1=NC=CC=N1)C | C7H9N3O2
